US08471005B2
N-Methyl-N-(2-{2-[2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanesulfonamide
Following the procedure of Example 1315, N-[2-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (105 mg, 0.330 mmol) was coupled in parallel fashion to 2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamine (57 mg, 0.23 mmol) and 2-(2-morpholin-4-yl-ethyl)-2H-indazol-5-ylamine (57 mg, 0.23 mmol). Products were purified by RP pHPLC as described in Example 1291c. Yield of TFA salt: 51 mg (46%); LC/MS: 547 (M+H); HPLC: 97% pure, RT=2.20 min; 1H NMR: (DMSO, δ) 9.53 (s, 1H), 9.01 (s, 1H), 8.31 (d, J=7.6, 1H), 8.13 (d, J=7.9, 1H), 8.11 (s, 1H), 7.68 (d, J=7.8, 1H), 7.60 (m, 3H), 7.23 (d, J=8.9, 1H), 7.04 (d, J=4.8, 1H), 6.98 (d, J=4.8, 1H), 4.81 (t, J=5.9, 2H), 3.85 (m, 4H), 3.76 (m, 2H), 3.35 (m, 4H), 3.13 (s, 3H), 2.91 (s, 3H).

reactant | N-[2-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.330 mmol, 105 mg | OC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C14H14N4O3S
reactant | 2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamine | 0.23 mmol, 57 mg | N1(CCOCC1)CCN1N=C2C=C(C=CC2=C1)N | C13H18N4O
reactant | 2-(2-morpholin-4-yl-ethyl)-2H-indazol-5-ylamine | 0.23 mmol, 57 mg | N1(CCOCC1)CCN1N=C2C=CC(=CC2=C1)N | C13H18N4O
product | N-Methyl-N-(2-{2-[2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=CC1=CN(N=C1C2)CCN2CCOCC2 | C27H30N8O3S
